US08461348B2
To a suspension of 2-amino-1-(3,4-dichlorophenyl)ethanone hydrochloride (2.18 g, 9.06 mmol) in ethyl acetate (25 mL) was added 2-chloro-2-oxoethyl acetate (0.975 mL, 9.06 mmol), and triethylamine (3.8 mL, 27.2 mmol) was added dropwise under ice-cooling. The reaction mixture was stirred under ice-cooling for 30 min, and at room temperature for 1 hr. Saturated aqueous sodium hydrogen carbonate solution (20 mL) was added and the mixture was stirred overnight. The reaction mixture was extracted with ethyl acetate, washed successively with water and saturated brine, dried over sodium sulfate, and concentrated under reduced pressure. Tetrahydrofuran (30 mL) and 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (Lawesson reagent, 2.56 g, 6.34 mmol) was added to the residue, and the mixture was heated under reflux for 1 hr. To the reaction mixture was added saturated aqueous sodium hydrogen carbonate solution (15 mL) and the mixture was stirred for 1 hr, extracted with ethyl acetate, washed successively with water and saturated brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (carrier: silica gel, eluent: hexane-ethyl acetate) to give [5-(3,4-dichlorophenyl)-1,3-thiazol-2-yl]methyl acetate (364 mg, 13%) as a colorless oil. The present compound was reacted in the same manner as in Example 1 to give the title compound (260 mg, 83%) as colorless crystals.

reactant | 2-amino-1-(3,4-dichlorophenyl)ethanone hydrochloride | 9.06 mmol, 2.18 g | Cl.NCC(=O)C1=CC(=C(C=C1)Cl)Cl
reactant | 2-chloro-2-oxoethyl acetate | 9.06 mmol, 0.975 mL | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | triethylamine | 27.2 mmol, 3.8 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | 20 mL | C(O)([O-])=O.[Na+]
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 6.34 mmol, 2.56 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | sodium hydrogen carbonate | 15 mL | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | Tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | [5-(3,4-dichlorophenyl)-1,3-thiazol-2-yl]methyl acetate | 364 mg, 13% | C(C)(=O)OCC=1SC(=CN1)C1=CC(=C(C=C1)Cl)Cl | C12H9Cl2NO2S
